US04329347
6-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril
107 mgm of 6-(4-phenylsulfonyl-butoxy)-carbostyril were suspended in 15 ml of methanol, the suspension was admixed with 40 mgm of palladium-on-charcoal, and the mixture was hydrogenated at 50° C. and a hydrogen pressure of 2.5 bar for 14 hours. After filtering off the catalyst and evaporating the clear solution, a colorless crystalline residue was obtained.

reactant | 6-(4-phenylsulfonyl-butoxy)-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H19NO4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 6-(4-Phenylsulfonyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO4S
